US07732477B2
6-(Acetylamino)-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide hydrochloride
50 mg (0.12 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzo-thiophene-2-carboxamide dihydrochloride are initially charged in 0.3 ml of DMF, and 18.7 mg (0.18 mmol) of triethylamine and 11.6 mg (0.15 mmol) of acetyl chloride are added. After 16 h of stirring at RT, a further 18.7 mg (0.18 mmol) of triethylamine and 11.6 mg (0.15 mmol) of acetyl chloride are added. After a further 12 h of stirring at RT, the supernatant solution of the reaction mixture is purified by preparative HPLC. The product fractions are concentrated and the residue is dissolved in a mixture of methanol and 4M HCl in dioxane, then reconcentrated and dried under high vacuum. 8 mg (17.1% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzo-thiophene-2-carboxamide dihydrochloride | 0.12 mmol, 50 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.18 mmol, 18.7 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.15 mmol, 11.6 mg | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.18 mmol, 18.7 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.15 mmol, 11.6 mg | C(C)(=O)Cl | C2H3ClO
solvent | DMF | 0.3 ml | CN(C)C=O | C3H7NO
product | 6-(Acetylamino)-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide hydrochloride | Cl.C(C)(=O)NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1 | InChI=1S/C18H21N3O2S.ClH/c1-11(22)19-14-3-2-13-8-17(24-16(13)9-14)18(23)20-15-10-21-6-4-12(15)5-7-21;/h2-3,8-9,12,15H,4-7,10H2,1H3,(H,19,22)(H,20,23);1H/t15-;/m0./s1
